US08729082B2
Step D: Preparation of 4-chloro-7,8-dimethyl-imidazo[1,2-a]quinoxaline
To a stirred suspension of 3-chloro-6,7-dimethyl-quinoxalin-2-ylamine (30.9 g, 0.16 mol) in water/THF 1:1 (540 mL) at room temperature was added bromoacetaldehyde diethyl acetal (94.6 g, 0.48 mol) and 5 g of PPTS in one portion. After stirring at room temperature for 1 h, the mixture was heated to reflux for 3 h under stirring and then stirred for an additional 15 h at room temperature. The pH value of the mixture was adjusted to pH 8 by addition of solid sodium carbonate. The precipitate formed was filtered off to give 25 g of the title compound. 1H-NMR (300 MHz, d6-DMSO): δ=8.85 (1H, s), 8.19 (1H, s), 7.73 (1H, bs), 7.80 (1H, bs), 3.60 (6H, s) ppm.

reactant | 3-chloro-6,7-dimethyl-quinoxalin-2-ylamine | 0.16 mol, 30.9 g | ClC=1C(=NC2=CC(=C(C=C2N1)C)C)N | C10H10ClN3
reactant | bromoacetaldehyde diethyl acetal | 0.48 mol, 94.6 g | C(C)OC(CBr)OCC | C6H13BrO2
reactant | PPTS | 5 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water THF | 540 mL | O.C1CCOC1
product | 4-chloro-7,8-dimethyl-imidazo[1,2-a]quinoxaline | 25 g | ClC=1C=2N(C3=CC(=C(C=C3N1)C)C)C=CN2 | C12H10ClN3
